US07745229B2
G. Synthesis of 3-Azido-7-diethylaminochromen-2-one (3-azido-7-diethylaminocoumarin)
7-Diethylamino-3-amino coumarin (100 mg, 0.43 mmol) was dissolved slowly in HCl aq. (17.2%, 4 mL) at room temperature. Upon cooling to 0-5° C. and addition of a solution of NaNO2 (30 mg, 0.43 mmol), the reaction mixture was stirred for 1 hour at 0-5° C. This was followed by the addition of potassium acetate (2 g) in water (5 mL) to adjust the pH of the resulting solution to 4. Sodium azide (57 mg, 0.88 mmol) was added in portions at 0-5° C., the mixture stirred at 0-5° C. for another five hours. The precipitated product was rapidly filtered, washed with ice-cold water (10 mL) and dried under vacuum to yield the final product as a yellow solid: 84 mg, 80%. The product was stored at −20° C. IR (KBr): 2113 (vs), 1710 (s), 1625 (m), 1512 (m); 1H NMR (300 MHz, CDCl3) δ 1.26 (t, J=7.25 Hz, 6H), 3.48 (q, J=7.24 Hz, 4H), 6.50 (s, 1H), 6.70 (d, J=8.04 Hz, 1H), 7.10 (s, 1H), 7.20 (d, J=9.07 Hz, 1H); EI-MS for C13H14N4O2 m/z (MH+): 259.

reactant | 7-Diethylamino-3-amino coumarin | 0.43 mmol, 100 mg | C(C)N(C1=CC=C2C=C(C(OC2=C1)=O)N)CC | C13H16N2O2
reactant | NaNO2 | 0.43 mmol, 30 mg | N(=O)[O-].[Na+]
reactant | potassium acetate | 2 g | C(C)(=O)[O-].[K+]
reactant | Sodium azide | 0.88 mmol, 57 mg | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 4 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 3-Azido-7-diethylaminochromen-2-one | N(=[N+]=[N-])C=1C(OC2=CC(=CC=C2C1)N(CC)CC)=O | C13H14N4O2
